US07700625B2
A solution of [2-(2,4-dimethoxybenzyl)-2,3-dihydro-1H-isoindol-5-yl]-morpholin-4-yl-methanone (1.05 g; 2.75 mmol) in dry THF (20 ml) under a nitrogen atmosphere was treated with 1M lithium aluminium hydride solution then stirred at room temperature overnight. The reaction was quenched by the cautious addition of saturated sodium sulphate solution, then diluted with EtOAc (40 ml), filtered through Celite™ and evaporated. Purification by flash column chromatography (2% then 5% MeOH/DCM as eluant) gave 340 mg of 2-(2,4-dimethoxybenzyl)-5-morpholin-4-ylmethyl-2,3-dihydro-1H-isoindole as a pale brown gum.

reactant | [2-(2,4-dimethoxybenzyl)-2,3-dihydro-1H-isoindol-5-yl]-morpholin-4-yl-methanone | 2.75 mmol, 1.05 g | COC1=C(CN2CC3=CC=C(C=C3C2)C(=O)N2CCOCC2)C=CC(=C1)OC | C22H26N2O4
reactant | lithium aluminium hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(2,4-dimethoxybenzyl)-5-morpholin-4-ylmethyl-2,3-dihydro-1H-isoindole | 340 mg | COC1=C(CN2CC3=CC=C(C=C3C2)CN2CCOCC2)C=CC(=C1)OC | C22H28N2O3
